Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
hydrochlorothiazide
 
Attending: ___.
 
Chief Complaint:
right distal ___ humerus fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ RHD s/p fall on right arm with distal ___ humerus spiral 
fracture. Reports she had tripped and fallen at her cottage onto 
her right arm. Denies head strike or loss of consciousness. 
Denies nausea, vomiting, blurry vision, neck pain. Denies 
weakness in the arms or legs. Denies chest pain, abdominal pain,
diarrhea, lightheadedness. 
 
Past Medical History:
PAST MEDICAL HISTORY:
Breast cancer s/p lumpectomy ___
HTN
Afib in ___, cardioverted

PAST SURGICAL HISTORY:
Right breast lumpectomy
L SCFE as child s/p pinning
L THA
R TKA
 
Social History:
___
Family History:
Negative for clots or bleeding disorders 
 
Physical Exam:
Exam on discharge:

Exam:
Vitals: AVSS
General: Well-appearing, breathing comfortably on RA.
MSK:
 RUE: 
-Dressing c/d/i, arm in ___, cuff and collar in place
-Fires EPL/FPL/DIO
-SILT ax/rad/med/ulnar nerve distributions
-Hand WWP
 
Pertinent Results:
___ 11:56PM BLOOD WBC-11.6* RBC-3.76* Hgb-11.4 Hct-33.9* 
MCV-90 MCH-30.3 MCHC-33.6 RDW-13.0 RDWSD-42.8 Plt ___
___ 06:30AM BLOOD Glucose-89 UreaN-19 Creat-0.6 Na-131* 
K-4.7 Cl-92* HCO3-25 AnGap-14
___ 05:30PM BLOOD Glucose-95 UreaN-22* Creat-0.7 Na-126* 
K-4.5 Cl-90* HCO3-25 AnGap-11
___ 08:45AM BLOOD Glucose-93 UreaN-22* Creat-0.8 Na-125* 
K-4.1 Cl-88* HCO3-22 AnGap-15
___ 07:00PM BLOOD Glucose-103* UreaN-21* Creat-0.9 Na-128* 
K-4.9 Cl-89* HCO3-24 AnGap-15
___ 11:56PM BLOOD Glucose-96 UreaN-11 Creat-0.5 Na-132* 
K-4.2 Cl-98 HCO3-19* AnGap-15
___ 01:10PM BLOOD Mg-2.0
___ 11:56PM BLOOD Calcium-8.0* Phos-3.4 Mg-1.5*
___ 01:10PM BLOOD Osmolal-269*
___ 09:31PM URINE Hours-RANDOM UreaN-731 Creat-90 Na-<20
___ 09:31PM URINE Osmolal-418
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have right distal ___ humerus fracture and was admitted to 
the orthopedic surgery service. The patient was managed 
non-operatively. She was put in ___ brace and a cuff to 
collar sling. The patient was initially given IV pain 
medications, and progressed to oral medications by HD#2. The 
patient's home medications were continued throughout this 
hospitalization, with the exception that her home spironolactone 
was held on ___. The patient worked with ___ who determined 
that discharge to home was appropriate. Of note, the patient was 
found to be hyponatremic on HD1. Urine and serum labs were sent 
to evaluate for a cause. The patient was also fluid restricted. 
Labs normalized on HD4. Also, CT chest to evaluate for potential 
rib fractures revealed few small pulmonary nodules measuring up 
to 4 mm for which no follow-up CT chest is recommended if 
patient is at low risk for primary lung neoplasm, and optional 
CT chest is recommended in 12 months if patient is at high risk 
for primary lung neoplasm per ___ guidelines. 
Otherwise, the ___ hospital course was unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
non weight-bearing in a sling in the right upper extremity, and 
will be discharged on Aspirin 81 mg for 2 weeks for DVT 
prophylaxis. The patient will follow up with an orthopaedic 
provider of her choice in ___ per routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
Bystolic 10mg daily
Spironalactone 25mg 3 times per week
Letrozone 2.5mg daily
Benicar (olmesartan) 20mg daily
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Aspirin 81 mg PO DAILY Duration: 2 Weeks  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0 
5.  Sarna Lotion 1 Appl TP TID:PRN itch  
6.  Senna 17.2 mg PO HS  
7.  Benicar (olmesartan) 20 mg oral DAILY  
8.  Bystolic (nebivolol) 20 mg oral Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right distal ___ humerus fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- non weight-bearing right upper extremity in ___ brace 
and cuff and collar sling

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon. Please DO NOT take your home 
spironolactone until you follow up with your primary care 
physician and he/she instructs you to continue. 
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Aspirin 81 mg for 2 weeks

HOME CARE:
- Brace and sling must be left on until follow up appointment 
unless otherwise instructed

 
Followup Instructions:
___